US03941821
Into a Paar hydrogenation bottle is added 41.5 g. (0.144 mole) of ethyl 2'-chloro-4-biphenylylglyoxylate, 2 ml. of 0.1 M-ferrous sulfate solution, 220 ml. of isopropionyl and 1.0 g. of 85.1% platinum oxide. The mixture is shaken for 2 hours at room temperature with hydrogen gas until 0.144 mole of hydrogen is absorbed. The catalyst is then filtered off and the solution is evaporated in vacuo and the residue fractionally distilled to obtain ethyl 2'-chloro-4-biphenylylglycolate.

reactant | ethyl 2'-chloro-4-biphenylylglyoxylate | 0.144 mole | ClC1=C(C=CC=C1)C1=CC=C(C=C1)C(C(=O)OCC)=O | C16H13ClO3
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 0.144 mole | [H][H] | H2
catalyst | platinum oxide | [Pt]=O
product | ethyl 2'-chloro-4-biphenylylglycolate | ClC1=C(C=CC=C1)C1=CC=C(C=C1)C(C(=O)OCC)O | C16H15ClO3
